US06387942B2
A mixture of ethyl 4-benzoylbenzoate (13.7 g, 54 mmole), benzylhydrazine (8 g, 65 mmole), ethanole (50 mL) and HOAc (1 mL) was refluxed for 12 hours and then treated with the procedure described in Example 1 to yield a crude product that was purified by column chromatography (silica gel-benzene), and recrystallized from n-hexane to give 4.8g 1-benzyl-3-(4′-ethoxycarbonylphenyl)indazole in a yield of 25.5%.

reactant | ethyl 4-benzoylbenzoate | 54 mmole, 13.7 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)OCC)C=C1 | C16H14O3
reactant | benzylhydrazine | 65 mmole, 8 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 1-benzyl-3-(4′-ethoxycarbonylphenyl)indazole | 4.8g, yield of 25.5% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=CC=C(C=C1)C(=O)OCC | C23H20N2O2
